US06172075B2
cis-(4-(2-methyl-ethyl)-cyclohexyl)-piperidine-4-one
cis-4-(2-methyl-ethyl)-cyclohexyl-amine hydrochloride(60.7 g) was dissolved in ethanol (725 ml). Potassium carbonate (51.8 g) and 1-ethyl-1-methyl-4-oxo-piperidinium iodide (126.6 g) dissolved in water (240 ml) were added and the mixture was refluxed for 1 hour. The reaction mixture was concentrated and extracted three times with dichloromethane. The combined organic layers were washed with aqueous bicarbonate and water, dried (MgSO4) and evaporated. Filtration over silica gel (cyclohexane/ethylacetate 17:3) yielded 69.7 g of a yellow oil which was distilled to yield the title compound (75%) as a slightly yellow oil. b.p. 111° C./0.45 mbar; m/z=223 [M+.].

reactant | cis-4-(2-methyl-ethyl)-cyclohexyl-amine hydrochloride | 60.7 g | Cl.CCC[C@H]1CC[C@H](CC1)N
reactant | Potassium carbonate | 51.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-ethyl-1-methyl-4-oxo-piperidinium iodide | 126.6 g | [I-].C(C)[N+]1(CCC(CC1)=O)C
solvent | ethanol | 725 ml | C(C)O | C2H6O
solvent | water | 240 ml | O | H2O
product | cis-(4-(2-methyl-ethyl)-cyclohexyl)-piperidine-4-one | 69.7 g | CCC[C@H]1CC[C@H](CC1)N1CCC(CC1)=O | C14H25NO
